US08802679B2
tert-Butyl 4-(6-chloro-5-methylpyrimidin-4-yl)piperazine-1-carboxylate (400 mg) was dissolved in EtOH (8 ml), and 10% Pd/C (40 mg) was added thereto, followed by stirring at room temperature overnight under a hydrogen atmosphere. To the reaction mixture was added TEA (129 mg) and filtered using Celite as a filtration assistant, and the filtrate was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (10% to 80% EtOAc/hexane) to obtain tert-butyl 4-(5-methylpyrimidin-4-yl)piperazine-1-carboxylate (255 mg).

reactant | tert-Butyl 4-(6-chloro-5-methylpyrimidin-4-yl)piperazine-1-carboxylate | 400 mg | ClC1=C(C(=NC=N1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C14H21ClN4O2
solvent | EtOH | 8 ml | CCO | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | tert-butyl 4-(5-methylpyrimidin-4-yl)piperazine-1-carboxylate | 255 mg | CC=1C(=NC=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H22N4O2
